US08871753B2
3-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride
The desired compound was prepared according to the procedure of Example B26, using 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride and 3-chlorobenzoyl chloride as the starting materials in 60% yield. LCMS for C25H20Cl2N5O (M+H)+: m/z=476.3.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 3-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride | 60% yield | Cl.ClC=1C=C(C(=O)NC=2C=CC=3NC4=C(C=NC(NC=5C=CC=C(CCC2C3)C5)=N4)Cl)C=CC1 | InChI=1S/C25H19Cl2N5O.ClH/c26-18-5-2-4-17(12-18)24(33)31-22-10-9-20-13-16(22)8-7-15-3-1-6-19(11-15)30-25-28-14-21(27)23(29-20)32-25;/h1-6,9-14H,7-8H2,(H,31,33)(H2,28,29,30,32);1H
